US06376536B1
To a solution of 7-(3,4-methlenedioxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid (0.14 g), 4-(N-methyl-N-(tetrahydropyran-4-yl)aminomethyl)aniline (0.11 9) and 1-hydroxy-benzotriazole (0.15 g) in dimethylformamide (10 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.13 g) under ice-cooling. Under nitrogen atmosphere, the reaction mixture was warmed to room temperature. To the mixture were added 4-dimethylaminopyridine (3 mg) and triethylamine (0.19 ml), and the mixture was stirred for 18 hours, poured into water, and extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column (ethyl acetate) to give 7-(3,4-methlenedioxyphenyl)-4-(N-methyl-N-(tetrahydropyran-4-yl)aminomethyl)phenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide (0.19 g).

reactant | 7-(3,4-methlenedioxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid | 0.14 g | C1OC=2C=C(C=CC2O1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C18H14O5
reactant | 4-(N-methyl-N-(tetrahydropyran-4-yl)aminomethyl)aniline | CN(C1CCOCC1)CC1=CC=C(N)C=C1 | C13H20N2O
reactant | 1-hydroxy-benzotriazole | 0.15 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.13 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | triethylamine | 0.19 ml | C(C)N(CC)CC | C6H15N
product | 2,3-dihydro-1-benzoxepine-4-carboxamide | 0.19 g | O1CCC(=CC2=C1C=CC=C2)C(=O)N | C11H11NO2
